US08431569B2
Step 1. 1-[(Dicyclopropylmethyl)amino]-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5H-pyrido[4,3-b]indole-4-carboxamide
A reaction mixture of 7-chloro-1-[(dicyclopropylmethyl)amino]-5H-pyrido[4,3-b]indole-4-carboxamide (50 mg, 0.14 mmol), bis(pinacolato)diboron (57 mg, 0.23 mmol), Pd2(dba)3 (13 mg, 0.014 mmol), tricyclohexylphosphine (7.9 mg, 0.028 mmol), and potassium acetate (35 mg, 0.35 mmol) in dioxane (1.4 mL) was purged with nitrogen for 10 min, heated to 100° C. for 2 h, and cooled to room temperature. The mixture was treated with water, and extracted with EtOAc (×3). The combined organics were washed with brine, dried (sodium sulfate), concentrated, and purified by flash chromatography to provide the title compound. LRMS (APCI) calc'd for (C25H31BN4O3) [M+H]+, 447.2. found 447.2.

reactant | 7-chloro-1-[(dicyclopropylmethyl)amino]-5H-pyrido[4,3-b]indole-4-carboxamide | 0.14 mmol, 50 mg | ClC=1C=CC=2C3=C(NC2C1)C(=CN=C3NC(C3CC3)C3CC3)C(=O)N | C19H19ClN4O
reactant | bis(pinacolato)diboron | 0.23 mmol, 57 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | tricyclohexylphosphine | 0.028 mmol, 7.9 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | potassium acetate | 0.35 mmol, 35 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 1.4 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.014 mmol, 13 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-[(Dicyclopropylmethyl)amino]-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5H-pyrido[4,3-b]indole-4-carboxamide | C1(CC1)C(C1CC1)NC1=NC=C(C=2NC=3C=C(C=CC3C21)B2OC(C(O2)(C)C)(C)C)C(=O)N | C25H31BN4O3
